US04551552
Into a Parr hydrogenation flask were placed 8.0 g of 1-adamantyl methyl ketoxime, 200 ml of glacial acetic acid, and 2.8 g of 5% Pt/C. Hydrogenation was continued overnight at 39 psia (270 KPa) and at ambient temperature. The catalyst was removed by filtration and the acetic acid solution was concentrated to one-third of the original volume by vacuum distillation. Water, 200 ml, was added to this conc. acetic acid solution and it was made basic with sodium hydroxide to give a milky solution. The milky solution was extracted three times with 100 ml of methylene chloride. The combined methylene chloride layer was dried over magnesium sulfate which was removed by filtration. The methylene chloride solution was distilled under vacuum to give 7.1 g of clear liquid rimantadine free base (96% yield).

reactant | 1-adamantyl methyl ketoxime | 8.0 g | CC(=NO)C12CC3CC(CC(C1)C3)C2 | C12H19NO
catalyst | Pt/C | 2.8 g | [Pt] | Pt
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | rimantadine | 96% yield | CC(C12CC3CC(C1)CC(C3)C2)N | C12H21N
